US08703761B2
To a stirred solution of the crude (Z)-methyl N,N′-dibenzoylcarbamimidothioate (0.895 g, 3 mmol) in DMF (8 ml) was added benzylhydrazine (0.367 g, 3.00 mmol) at 40° C. The reaction was stirred for 2 days. The stirred reaction was diluted with water. The resulting precipitates were collected to yield the crude N-(1-benzyl-5-phenyl-1H-1,2,4-triazol-3-yl)benzamide. LCMS method A, (M+H)+355.1, ret T=1.32 min.

reactant | (Z)-methyl N,N′-dibenzoylcarbamimidothioate | 3 mmol, 0.895 g | C(C1=CC=CC=C1)(=O)N/C(=N/C(C1=CC=CC=C1)=O)/SC | C16H14N2O2S
reactant | benzylhydrazine | 3.00 mmol, 0.367 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(1-benzyl-5-phenyl-1H-1,2,4-triazol-3-yl)benzamide | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=CC=C1)NC(C1=CC=CC=C1)=O | C22H18N4O
